US06028100
1-Benzyloxy-3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)benzene was dissolved in ethyl acetate, which was put into a reaction vessel, and the air in the vessel was replaced with nitrogen gas. A catalytic amount of 10% palladium on carbon was added, and the nitrogen gas in the vessel was replaced with hydrogen gas, followed by vigorous stirring at room temperature for 24 hours. The hydrogen gas in the vessel was replaced with nitrogen gas, after which the reaction mixture was filtered through cerite and the filtrate was concentrated to give 3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)phenol.

reactant | 1-Benzyloxy-3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)benzene | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)OCCCNC(C1=CC=C(C=C1)C(F)(F)F)=O)Cl | C24H20Cl2F3NO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)phenol | ClC=1C=C(C=C(C1OCCCNC(C1=CC=C(C=C1)C(F)(F)F)=O)Cl)O | C17H14Cl2F3NO3
